US06124469
Preparation of 3-(2,6-dichlorophenyl)-4,5-dihydroisoxazole
Starting from 2,6-dichlorobenzaldehyde 75 g (0.43 mol) of 2,6-dichlorobenzaldehyde were dissolved in 400 ml of toluene and then 155 g (0.24 mol) of 25% strength hydroxylammonium sulfate solution were added. At 75° C., 38 g of 50% strength NaOH were added dropwise. After stirring for half an hour, the phases were separated at 75° C., and the organic phase was washed with water and then cooled. At 25° C., 276 g (0.46 mol) of 12.5% strength sodium hypochlorite solution were added dropwise over 4-6 h while simultaneously passing in ethylene. After addition of the hypochlorite solution was complete, the mixture was stirred for 1 h, the phases were separated, the organic phase was washed with water, and the solvent was distilled off under reduced pressure. 82 g (89% of theory) of the required product were obtained with a purity (by GC) of 96%.

reactant | 2,6-dichlorobenzaldehyde | 0.43 mol, 75 g | ClC1=C(C=O)C(=CC=C1)Cl | C7H4Cl2O
reactant | hydroxylammonium sulfate | S(=O)(=O)([O-])[O-].O[NH3+].O[NH3+]
reactant | NaOH | [OH-].[Na+]
reactant | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(2,6-dichlorophenyl)-4,5-dihydroisoxazole | ClC1=C(C(=CC=C1)Cl)C1=NOCC1 | C9H7Cl2NO
